US07205326B2
To a solution of 2-[1,2,3]triazol-1-yl-ethanol (5.98 g, 52.84 mmol) in dry THF (150 ml) at −50° C. sodium hydride (1.27 g, 52.84 mmol) was added and the mixture stirred for 45 min. followed by the addition of 1-iodomethyl-4-nitro-benzene (13.9 g, 52.84 mmol). The mixture was refluxed for 2 h, water (100 ml) and ethyl acetate (150 ml) were added and the resulting precipitate removed by filtration. The filtrate was concentrated and the residue purified by flash column chromatography (ethyl acetate 100%) yielding 3.6 g (27%) 1-[2-(4-nitro-benzyloxy)-ethyl]-1H-[1,2,3]triazole.

reactant | 2-[1,2,3]triazol-1-yl-ethanol | 52.84 mmol, 5.98 g | N1(N=NC=C1)CCO | C4H7N3O
reactant | sodium hydride | 52.84 mmol, 1.27 g | [H-].[Na+]
reactant | 1-iodomethyl-4-nitro-benzene | 52.84 mmol, 13.9 g | ICC1=CC=C(C=C1)[N+](=O)[O-] | C7H6INO2
reactant | water | 100 ml | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(4-nitro-benzyloxy)-ethyl]-1H-[1,2,3]triazole | 3.6 g, 27% | [N+](=O)([O-])C1=CC=C(COCCN2N=NC=C2)C=C1 | C11H12N4O3
